US06555571B2
(Step 3) Dimethyl 2-hept-6-enylpropan-1,3-dioate
Dimethylmalonate(8.16 ml, 71.4 mmol) was dissolved in anhydrous DMSO(60 ml), 60% sodium hydride(1.29 g, 53.55 mmol) was added thereto at 0° C., and the resulting mixture was stirred for 30 minutes at room temperature. To the reaction mixture was added 7-iodohept-1-ene(8.0 g, 35.70 mmol), which was then stirred under heating at 60˜70° C. for 4 hours. The temperature was lowered to 0° C. and water was added. The mixture thus obtained was extracted with ethyl acetate, washed with water and saturated saline solution in order, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (eluent:n-hexane/ethyl acetate=40/1, v/v) to give 7.1 g(Yield 87.1%) of the pure title compound as a colorless oil.

reactant | Dimethylmalonate | 71.4 mmol, 8.16 ml | CC(C(=O)[O-])(C(=O)[O-])C
reactant | sodium hydride | 53.55 mmol, 1.29 g | [H-].[Na+]
reactant | 7-iodohept-1-ene | 35.70 mmol, 8.0 g | ICCCCCC=C | C7H13I
reactant | water | O | H2O
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | Dimethyl 2-hept-6-enylpropan-1,3-dioate | 7.1 g, Yield 87.1% | C(CCCCC=C)C(C(=O)OC)C(=O)OC | C12H20O4
